US07947834B2
0.071 g of 2,2-difluoro-2′,3′-dihydro-1′H-spiro[cyclopropane-1,4′-quinoline], 0.03 ml of pyridine and 8.4 ml of dichloromethane are placed in a 50 ml round-bottomed flask under a nitrogen atmosphere. 0.17 ml of a 20% solution of phosgene in toluene is added at 0° C. and then the reaction mixture is left stirring at 0° C. for ½ hour and at ambient temperature for one hour. 0.05 ml of triethylamine and 0.044 g of 4-(pyrrolidin-3-yl)-1H-pyrazole dihydrochloride are subsequently added at 0° C. and the reaction mixture is stirred for eighteen hours and then concentrated under reduced pressure. The residue is chromatographed on silica gel eluted with a 5% mixture of methanol in dichloromethane. 0.038 g of 2,2-difluoro-1′-{[3-(1H-pyrazol-4-yl)pyrrolidin-1-yl]carbonyl}-2′,3′-dihydro-1′H-spiro[cyclopropane-1,4′-quinoline] is obtained.

reactant | 2,2-difluoro-2′,3′-dihydro-1′H-spiro[cyclopropane-1,4′-quinoline] | 0.071 g | FC1(CC12CCNC1=CC=CC=C21)F | C11H11F2N
reactant | pyridine | 0.03 ml | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 4-(pyrrolidin-3-yl)-1H-pyrazole dihydrochloride | 0.044 g | Cl.Cl.N1CC(CC1)C=1C=NNC1
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 0.05 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 8.4 ml | ClCCl | CH2Cl2
product | 2,2-difluoro-1′-{[3-(1H-pyrazol-4-yl)pyrrolidin-1-yl]carbonyl}-2′,3′-dihydro-1′H-spiro[cyclopropane-1,4′-quinoline] | 0.038 g | FC1(CC12CCN(C1=CC=CC=C21)C(=O)N2CC(CC2)C=2C=NNC2)F | C19H20F2N4O
